CIRCUIT C:\Users\schuh\Desktop\ci_final.MSK
*
* IC Technology: K-CMOS Free-PDK-Based 45nm - 6 Metal
*
VDD 1 0 DC 1.00
Vnot a 32 0 DC 0 PULSE(0.00 1.00 1.97N 0.03N 0.03N 1.97N 4.00N)
Vc 33 0 DC 0 PULSE(0.00 1.00 0.98N 0.03N 0.03N 0.97N 2.00N)
Vnot b 34 0 DC 0 PULSE(0.00 1.00 3.98N 0.03N 0.03N 3.98N 8.00N)
Va 35 0 DC 0 PULSE(0.00 1.00 0.23N 0.03N 0.03N 0.23N 0.50N)
Vb 36 0 DC 0 PULSE(0.00 1.00 0.48N 0.03N 0.03N 0.48N 1.00N)
Vnot c 37 0 DC 0 PULSE(0.00 1.00 7.98N 0.03N 0.03N 7.97N 16.00N)
Vd 38 0 DC 0 PULSE(0.00 1.00 1.97N 0.03N 0.03N 1.97N 4.00N)
Va 39 0 DC 0 PULSE(0.00 1.00 0.23N 0.03N 0.03N 0.23N 0.50N)
Vb 40 0 DC 0 PULSE(0.00 1.00 0.48N 0.03N 0.03N 0.48N 1.00N)
Vc 41 0 DC 0 PULSE(0.00 1.00 0.98N 0.03N 0.03N 0.97N 2.00N)
*
* List of nodes
* "out f3" corresponds to n°3
* "N4" corresponds to n°4
* "N5" corresponds to n°5
* "N6" corresponds to n°6
* "N7" corresponds to n°7
* "out f2" corresponds to n°8
* "N9" corresponds to n°9
* "out f1" corresponds to n°15
* "gnd" corresponds to n°20, WARNING: appears 3 times in the layout
* "gnd" corresponds to n°24, WARNING: appears 3 times in the layout
* "gnd" corresponds to n°25, WARNING: appears 3 times in the layout
* "not a" corresponds to n°32
* "c" corresponds to n°33, WARNING: appears 2 times in the layout
* "not b" corresponds to n°34
* "a" corresponds to n°35, WARNING: appears 2 times in the layout
* "b" corresponds to n°36, WARNING: appears 2 times in the layout
* "not c" corresponds to n°37
* "d" corresponds to n°38
* "a" corresponds to n°39, WARNING: appears 2 times in the layout
* "b" corresponds to n°40, WARNING: appears 2 times in the layout
* "c" corresponds to n°41, WARNING: appears 2 times in the layout
*
* MOS devices
MN1 0 5 3 0 N1  W= 0.10U L= 0.05U
MN2 21 33 8 0 N1  W= 0.40U L= 0.05U
MN3 8 32 21 0 N1  W= 0.40U L= 0.05U
MN4 0 8 5 0 N1  W= 0.10U L= 0.05U
MN5 21 34 8 0 N1  W= 0.40U L= 0.05U
MN6 5 15 0 0 N1  W= 0.10U L= 0.05U
MN7 22 37 21 0 N1  W= 0.40U L= 0.05U
MN8 21 32 22 0 N1  W= 0.40U L= 0.05U
MN9 22 36 21 0 N1  W= 0.40U L= 0.05U
MN10 23 35 22 0 N1  W= 0.40U L= 0.05U
MN11 22 34 23 0 N1  W= 0.40U L= 0.05U
MN12 23 37 22 0 N1  W= 0.40U L= 0.05U
MN13 0 33 23 0 N1  W= 0.40U L= 0.05U
MN14 23 36 0 0 N1  W= 0.40U L= 0.05U
MN15 0 35 23 0 N1  W= 0.40U L= 0.05U
MN16 0 17 15 0 N1  W= 0.10U L= 0.05U
MN17 0 33 26 0 N1  W= 0.10U L= 0.05U
MN18 27 38 17 0 N1  W= 0.40U L= 0.05U
MN19 29 41 27 0 N1  W= 0.40U L= 0.05U
MN20 0 36 28 0 N1  W= 0.10U L= 0.05U
MN21 30 40 29 0 N1  W= 0.40U L= 0.05U
MN22 0 39 30 0 N1  W= 0.40U L= 0.05U
MN23 0 35 31 0 N1  W= 0.10U L= 0.05U
MP1 1 5 3 1 P1  W= 0.10U L= 0.05U
MP2 4 33 1 1 P1  W= 0.43U L= 0.05U
MP3 6 32 4 1 P1  W= 0.43U L= 0.05U
MP4 7 8 5 1 P1  W= 0.25U L= 0.05U
MP5 8 34 6 1 P1  W= 0.43U L= 0.05U
MP6 1 15 7 1 P1  W= 0.25U L= 0.05U
MP7 9 37 8 1 P1  W= 0.43U L= 0.05U
MP8 10 32 9 1 P1  W= 0.43U L= 0.05U
MP9 1 36 10 1 P1  W= 0.43U L= 0.05U
MP10 11 35 1 1 P1  W= 0.43U L= 0.05U
MP11 12 34 11 1 P1  W= 0.43U L= 0.05U
MP12 8 37 12 1 P1  W= 0.43U L= 0.05U
MP13 13 33 8 1 P1  W= 0.43U L= 0.05U
MP14 14 36 13 1 P1  W= 0.43U L= 0.05U
MP15 1 35 14 1 P1  W= 0.43U L= 0.05U
MP16 1 17 15 1 P1  W= 0.10U L= 0.05U
MP17 1 33 16 1 P1  W= 0.13U L= 0.05U
MP18 1 38 17 1 P1  W= 0.10U L= 0.05U
MP19 17 41 1 1 P1  W= 0.10U L= 0.05U
MP20 1 36 18 1 P1  W= 0.13U L= 0.05U
MP21 1 40 17 1 P1  W= 0.10U L= 0.05U
MP22 17 39 1 1 P1  W= 0.10U L= 0.05U
MP23 1 35 19 1 P1  W= 0.13U L= 0.05U
*
C2 1 0  1.674fF
C3 3 0  0.085fF
C4 4 0  0.082fF
C5 5 0  0.157fF
C6 6 0  0.082fF
C7 7 0  0.056fF
C8 8 0  0.510fF
C9 9 0  0.082fF
C10 10 0  0.082fF
C11 11 0  0.082fF
C12 12 0  0.082fF
C13 13 0  0.082fF
C14 14 0  0.088fF
C15 15 0  0.124fF
C16 16 0  0.031fF
C17 17 0  0.225fF
C18 18 0  0.031fF
C19 19 0  0.031fF
C21 21 0  0.282fF
C22 22 0  0.276fF
C23 23 0  0.273fF
C26 26 0  0.027fF
C27 27 0  0.082fF
C28 28 0  0.027fF
C29 29 0  0.082fF
C30 30 0  0.082fF
C31 31 0  0.027fF
C32 32 0  0.167fF
C33 33 0  0.193fF
C34 34 0  0.157fF
C35 35 0  0.173fF
C36 36 0  0.176fF
C37 37 0  0.147fF
C38 38 0  0.043fF
C39 39 0  0.033fF
C40 40 0  0.036fF
C41 41 0  0.040fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 5.00N
print  V(41) V(40) V(39) V(15) V(25) V(33) V(37) V(34) V(32) V(24) V(36) V(35) V(8) V(2) V(20) V(3) > out.txt
plot  V(41) V(40) V(39) V(15) V(25) V(33) V(37) V(34) V(32) V(24) V(36) V(35) V(8) V(2) V(20) V(3)
.endc
.END
